US04902794
In the manner given in Example 1, a solution of 1,3-dihydro-6,8-diethyl-5-(2,4-diethylphenyl)-2H-1,4-benzodiazepine-2-thione in n-butyl alcohol was heated to reflux with ethoxyacetic acid hydrazide to give 7,9-diethyl-1-(ethoxymethyl)-6-(2,4-diethylphenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 1,3-dihydro-6,8-diethyl-5-(2,4-diethylphenyl)-2H-1,4-benzodiazepine-2-thione | C(C)C1=CC(=CC2=C1C(=NCC(N2)=S)C2=C(C=C(C=C2)CC)CC)CC | C23H28N2S
reactant | ethoxyacetic acid hydrazide | C(C)OCC(=O)NN | C4H10N2O2
solvent | n-butyl alcohol | C(CCC)O | C4H10O
product | 7,9-diethyl-1-(ethoxymethyl)-6-(2,4-diethylphenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | C(C)C1=CC(=CC2=C1C(=NCC=1N2C(=NN1)COCC)C1=C(C=C(C=C1)CC)CC)CC | C27H34N4O
